US08912186B2
A mixture of aniline (1.4 ml), ethyl acrylate (3.4 ml), and conc. HCl (1.6 ml) in ethanol (17 ml) was heated to reflux for 24 h. Then the solvent was removed and the residue partitioned between an excess of ammonia solution and dichloromethane. The organic layer was separated, washed with brine, dried (MgSO4), and evaporated. The residue was purified by flash chromatography on silica gel (hexane/ethyl acetate 2:1) to provide ethyl N-(4-chlorophenyl)-3-aminopropionate (1.27 g) as yellowish oil.

reactant | aniline | 1.4 ml | NC1=CC=CC=C1 | C6H7N
reactant | ethyl acrylate | 3.4 ml | C(C=C)(=O)OCC | C5H8O2
reactant | HCl | 1.6 ml | Cl | ClH
solvent | ethanol | 17 ml | C(C)O | C2H6O
product | ethyl N-(4-chlorophenyl)-3-aminopropionate | 1.27 g | ClC1=CC=C(C=C1)NCCC(=O)OCC | C11H14ClNO2
